US04152441
A mixture of 13 g (0.034 mol) of α-(p-tert.-butylphenyl)-α-(p-chlorophenyl)-1-(methoxymethyl)imidazole-2-methanol, 150 ml. of glacial acetic acid, 15 ml. of concentrated hydrochloric acid and 15 ml. of water was refluxed for 31/2 hours. The reaction mixture was treated with active charcoal and concentrated. The residue was dissolved in diethyl ether and the solution was washed with water. To the ethereal phase an ethereal solution of oxalic acid was added. The precipitate thus formed was crystallised from ethanol with a small amount of methanol. The base was liberated by addition of sodium hydroxyde and extraction with diethyl ether. The ether was distilled off and the residue was crystallised from isopropyl alcohol. As the product obtained contained crystal isopropyl alcohol, it was dissolved in diethyl ether. The ethereal phase was washed with water and dried over sodium sulphate and the ether was distilled off. α-(p-tert.-Butylphenyl)-α-(p-chlorophenyl)imidazole-2-methanol was obtained. Melting point 95°-110° C. The melting point was not sharp but the NMR and IR spectra, the titrations and the elementary analysis were in conformity with the desired structure. Thin layer chromatography revealed only one component.

reactant | α-(p-tert.-butylphenyl)-α-(p-chlorophenyl)-1-(methoxymethyl)imidazole-2-methanol | 0.034 mol, 13 g | C(C)(C)(C)C1=CC=C(C=C1)C(O)(C=1N(C=CN1)COC)C1=CC=C(C=C1)Cl | C22H25ClN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | α-(p-tert.-Butylphenyl)-α-(p-chlorophenyl)imidazole-2-methanol | C(C)(C)(C)C1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)Cl | C20H21ClN2O
